US04906621
A solution of 20 g 4-pyridylcarbinol, 28.9 g of chlorotert-butyl-dimethylsilane and 14.4 g imidazole in 200 ml dimethylformamide is stirred 3 hours at room temperature. Product is isolated by extraction into ethyl acetate/hexane (1:1) and washing extract 4 times with 400 ml of water. The solution is filtered through silica gel and concentrated in vacuo to yield 4-(tert-butyl-dimethylsilyloxymethyl)-pyridine.

reactant | 4-pyridylcarbinol | 20 g | N1=CC=C(C=C1)CO | C6H7NO
reactant | chlorotert-butyl-dimethylsilane | 28.9 g | Cl[Si](C)(C)C(C)(C)C | C6H15ClSi
reactant | imidazole | 14.4 g | N1C=NC=C1 | C3H4N2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(tert-butyl-dimethylsilyloxymethyl)-pyridine | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
